US06030964
Synthesis of 1-(1-methylethyl)-1,2,3,4-tetrahydroquinoline-6-carbaldehyde
18.6 g (0.12 mol) of phosphorus oxychloride was dropped into 29.2 g (0.4 mol) of N,N-dimethylformamide under cooling with ice. The obtained mixture was stirred at room temperature for 30 minutes and cooled again on an ice bath. 17.5 g (0.1 mol) of 1-(1-methylethyl)-1,2,3,4-tetrahydroquinoline was gradually dropped into the resulting mixture. The mixture thus obtained was stirred at room temperature for one hour and poured onto ice-water. The resulting mixture was neutralized with an aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The organic phase was dried over anhydrous magnesium sulfate and concentrated in a vacuum. The residue was purified by silica gel column chromatography (10% ethyl acetate/n-hexane) to give 11.4 g of the title compound as a reddish-brown oil.

reactant | phosphorus oxychloride | 0.12 mol, 18.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 0.4 mol, 29.2 g | CN(C=O)C | C3H7NO
reactant | 1-(1-methylethyl)-1,2,3,4-tetrahydroquinoline | 0.1 mol, 17.5 g | CC(C)N1CCCC2=CC=CC=C12 | C12H17N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 1-(1-methylethyl)-1,2,3,4-tetrahydroquinoline-6-carbaldehyde | 11.4 g | CC(C)N1CCCC2=CC(=CC=C12)C=O | C13H17NO
